US07018988B2
(2S,4EZ)-4-[(benzyloxy)imino]-N-(4,6-dimethoxy-2-pyrimidinyl)-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, staring from (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride, and 4,6-dimethoxy-2-pyrimidinamine the title compound was obtained in 62% purity by LC/MS. MS(ESI+): m/z=564.6.

reactant | (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H22N2O5
reactant | 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride | O=C1OC(=CC=C1C(=O)Cl)CCCCC | C11H13ClO3
reactant | 4,6-dimethoxy-2-pyrimidinamine | COC1=NC(=NC(=C1)OC)N | C6H9N3O2
product | (2S,4EZ)-4-[(benzyloxy)imino]-N-(4,6-dimethoxy-2-pyrimidinyl)-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(=O)C=1C(OC(=CC1)CCCCC)=O)C(=O)NC1=NC(=CC(=N1)OC)OC | C29H33N5O7
